US05736568
A mixture of 3-hydroxybenzonitrile (20.0 g) and N,N,N',N'-tetramethyldiaminomethane (22.9 ml) in 1,4-dioxane (200 ml) was heated on a steam bath for 48 hours. The mixture was evaporated to dryness and the residue dissolved in 2M hydrochloric acid. The solution was washed with ethyl acetate and then the acidic layer was basified with concentrated sodium hydroxide solution and extracted with dichloromethane to give an oil which was purified by column chromatography on silica to give 2-dimethylaminomethyl-3-hydroxybenzonitrile. The structure was confirmed by 1H NMR spectroscopy.

reactant | 3-hydroxybenzonitrile | 20.0 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | N,N,N',N'-tetramethyldiaminomethane | 22.9 ml | CN(C)CN(C)C | C5H14N2
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-dimethylaminomethyl-3-hydroxybenzonitrile | CN(C)CC1=C(C#N)C=CC=C1O | C10H12N2O
